US04859692
Sodium hydride (60% w/w dispersion in mineral oil, 0.12 g.) was added to a stirred solution of 3-(4-cyano-2-methoxybenzyl)-5-nitroindole (0.85 g.) in dry N,N-dimethylformamide (10 ml.) under a nitrogen atmosphere. After about one hour, iodomethane (0.645 g.) was added dropwise, and stirring continued at ambient temperature for 5 hours. The mixture was poured onto saturated aqueous ammonium chloride solution, extracted with ethyl acetate (2×20 ml.), the extract washed with water, brine, dried (MgSO4) and evaporated. The residue was crystallized from acetonitrile to give 3-(4-cyano-2-methoxybenzyl)-1-methyl-5-nitroindole (0.72 g., 81%) as a yellow solid, m.p. 200°-201° C.; partial NMR (250 MHz, DMSO-d6): 3.82(s, 3H, NMe); 3.92(s,3H, OMe); 4.12(s,2H, ArCH2).

reactant | Sodium hydride | 0.12 g | [H-].[Na+]
reactant | 3-(4-cyano-2-methoxybenzyl)-5-nitroindole | 0.85 g | C(#N)C1=CC(=C(CC2=CNC3=CC=C(C=C23)[N+](=O)[O-])C=C1)OC | C17H13N3O3
reactant | iodomethane | 0.645 g | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(4-cyano-2-methoxybenzyl)-1-methyl-5-nitroindole | 0.72 g, 81% | C(#N)C1=CC(=C(CC2=CN(C3=CC=C(C=C23)[N+](=O)[O-])C)C=C1)OC | C18H15N3O3
